US05171753
α-Phenyl-β-[[2-(phenylmethoxy)propyl]amino]benzeneethanol.
A mixture of trans-stilbene oxide (1.96 g, 0.010 mol) and 2-benzyloxypropylamine (2.48 g, 0.015 mol) was heated at 140° C. for 6 hours and then allowed to stand at ambient temperature for 12 hours. The solidified reaction mixture was triturated with petroleum ether and filtered to obtain 2.72 g of a solid. Mass spectral analysis showed starting materials present. Recrystallization from isooctane gave 2.16 g (60%) of the product as a white solid; mp 114°-119° C.

reactant | trans-stilbene oxide | 0.010 mol, 1.96 g | C=1C=CC(=CC1)[C@@H]2[C@H](O2)C=3C=CC=CC3 | C14H12O
reactant | 2-benzyloxypropylamine | 0.015 mol, 2.48 g | C(C1=CC=CC=C1)OC(CN)C | C10H15NO
product | α-Phenyl-β-[[2-(phenylmethoxy)propyl]amino]benzeneethanol | 2.72 g | C1(=CC=CC=C1)C(C(C1=CC=CC=C1)NCC(C)OCC1=CC=CC=C1)O | C24H27NO2
